* C:\Users\tomas\OneDrive - UTN.BA\UTN\05 - UTN Electrónica 2023\01 - Teoria de Circuitos II\GitHub\TC2_2023\Laboratarios\TP_Laboratorio_1\Simulaciones\SimulacionLTSpice.asc
XU1 P12 P3 P13 opamp Aol=100K GBW=10Meg
XU2 P8 0 P7 opamp Aol=100K GBW=10Meg
XU3 P14 0 0 opamp Aol=100K GBW=10Meg
R2 P13 P12 50k
C1 P7 P8 1000p
C2 0 P14 1000p
R4 P7 P3 50k
RG P3 N001 58.76k
RQ 0 P3 817.57k
V1 N001 0 AC 1 0
R1 0 P12 50k
RF2 P14 P7 36.34k
RF1 P8 P13 36.34k
.lib opamp.sub
.ac dec 1000 1 1Meg
.backanno
.end
