* C:\Users\tomas\OneDrive - UTN.BA\UTN\05 - UTN Electrónica 2023\01 - Teoria de Circuitos II\GitHub\TC2_2023\Trabajos_Semanales\Trabajo_Semanal_3\sim\TS3_Albanesi_SimulacionPunto5.asc
V1 N006 0 AC 1 0
XU1 N001 0 N005 opamp Aol=100K GBW=10Meg
R1 N001 N006 848.83
R2 N005 N001 848.83
R3 N002 N001 848.83
R4 N007 N005 848.83
C1 N005 N001 100n
XU2 0 N007 N002 opamp Aol=100K GBW=10Meg
C2 N003 N007 100n
XU3 N004 0 N003 opamp Aol=100K GBW=10Meg
R5 N004 N002 848.83
R6 N003 N004 848.83
R7 Vo N003 848.83
C3 Vo 0 100n
.lib opamp.sub
.ac dec 1000 1 50k
.backanno
.end
